US07767680B2
A solution of 2 M oxalyl chloride in CH2Cl2 (0.070 mL, 0.14 mmol) was added to a stirred solution of 4-(2-fluorophenyl)-6-methyl-2-morpholin-4-yl-pyrimidine-5-carboxylic acid (0.03 g, 0.09 mmol) in CH2Cl2 (2 mL) and DMF (0.030 mL) at room temperature, and stirring continued for 15 min. A solution of N-benzylisopropylamine (0.013 g, 0.1 mmol) in CH2Cl2(1 mL) and diisopropylethylamine(0.044 mL,0.25 mmol) were added and stirred for 24 hr. The solvent was removed under reduced pressure, and the residue was purified by Biotage SP1 on packed silica gel column (10%-80% EtOAc/Hexanes gradient) to give 4-(2-fluorophenyl)-6-methyl-2-morpholin-4-yl-pyrimidine-5-carboxylic acid benzyl-isopropyl-amide (0.016 g,40%).

reactant | oxalyl chloride | 2 M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(2-fluorophenyl)-6-methyl-2-morpholin-4-yl-pyrimidine-5-carboxylic acid | 0.09 mmol, 0.03 g | FC1=C(C=CC=C1)C1=NC(=NC(=C1C(=O)O)C)N1CCOCC1 | C16H16FN3O3
reactant | N-benzylisopropylamine | 0.1 mmol, 0.013 g | C(C1=CC=CC=C1)NC(C)C | C10H15N
reactant | diisopropylethylamine | 0.25 mmol, 0.044 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.030 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.14 mmol, 0.070 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-fluorophenyl)-6-methyl-2-morpholin-4-yl-pyrimidine-5-carboxylic acid benzyl-isopropyl-amide | 0.016 g, 40% | C(C1=CC=CC=C1)N(C(=O)C=1C(=NC(=NC1C)N1CCOCC1)C1=C(C=CC=C1)F)C(C)C | C26H29FN4O2
